US05504101
A suspension of the 3-(2-amino-1,2-dioxoethyl)-5-(2-phenylethyloxy)indole (0.4 g, 1.3 mmol) and LiAlH4 (0.32 g, 8.44 mmol) in dry THF (30 ml) was then heated at reflux for 3 days under nitrogen. After allowing the reaction mixture to cool to room temperature, the excess LiAIH4 was decomposed by the addition of a saturated solution of sodium potassium tartrate (3 ml) at 0° C. The precipitated material was removed by filtration and the flitrate was dried (MgSO4). The solvent was removed under reduced pressure to afford an oily product. The oil was purified by column chromatography using a solvent system of CH2Cl2 /MeOH (90:10) to provide 0.14 g (38%) of 3-(2-aminoethyl)-5-(2-phenylethyloxy)indole hemioxalate as an oil. The oil was taken up in anhydrous Et2O(5 ml) and added to a saturated ethereal solution of oxalic acid. The resultant oxalate salt was collected by filtration, washed with anhydrous Et 2 O (2×10 ml), and recrystallized from MeOH/Et2O to afford a white solid; mp 174°-176° C. Analytically calculated formula C18H20N2O. 1/2 (COOH)2. 1/4H2O).

reactant | 3-(2-amino-1,2-dioxoethyl)-5-(2-phenylethyloxy)indole | 1.3 mmol, 0.4 g | NC(C(=O)C1=CNC2=CC=C(C=C12)OCCC1=CC=CC=C1)=O | C18H16N2O3
reactant | LiAlH4 | 8.44 mmol, 0.32 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium potassium tartrate | 3 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(2-aminoethyl)-5-(2-phenylethyloxy)indole hemioxalate | 0.14 g, 38% | C(C(=O)O)(=O)O.NCCC1=CNC2=CC=C(C=C12)OCCC1=CC=CC=C1.NCCC1=CNC2=CC=C(C=C12)OCCC1=CC=CC=C1 | InChI=1S/2C18H20N2O.C2H2O4/c2*19-10-8-15-13-20-18-7-6-16(12-17(15)18)21-11-9-14-4-2-1-3-5-14;3-1(4)2(5)6/h2*1-7,12-13,20H,8-11,19H2;(H,3,4)(H,5,6)
